US20010027196A1
2-Amino-4-furan-2-yl-6-[(pyridin-3-ylmethyl)-amino]-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile and 3-picolylamine in DME. ES-MS m/e (%): 293 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | 3-picolylamine | N1=CC(=CC=C1)CN | C6H8N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-[(pyridin-3-ylmethyl)-amino]-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCC=1C=NC=CC1 | C15H12N6O
